US08912331B2
Step 1: 2-(quinolin-6-yl)propan-2-ol
To an ice-cold solution of methylmagnesium iodide prepared from magnesium (0.454 g, 18.69 mmol) and methyliodide (1.16 ml, 18.69 mmol) in diethyl ether (15 ml), methyl quinoline-6-carboxylate (0.50 g, 2.67 mmol) in diethyl ether (5 ml) was added and warmed to room temperature. After 12 h, the reaction mixture was cooled to 0° C., quenched with dil. 6N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure and column chromatographed with ethyl acetate: petroleum ether to afford the title compound as a yellow liquid brown oil (0.41 g, 84%), 1H-NMR (δ ppm. DMSO-d6, 400 MHz): 8.83 (dd, J=4.2, 1.7 Hz, 1H), 8.34 (dd, J=8.2, 1.1 Hz, 1H), 8.00 (d, J=1.9 Hz, 1H), 7.95 (d, J=8.8 Hz, 1H), 7.88 (dd, J=8.9, 2.0 Hz, 1H), 7.50 (q, J=4.1 Hz, 1H), 5.23 (s, 1H), 1.51 (s, 6H).

reactant | methylmagnesium iodide | C[Mg]I
reactant | magnesium | 18.69 mmol, 0.454 g | [Mg] | Mg
reactant | methyliodide | 18.69 mmol, 1.16 ml | CI | CH3I
reactant | methyl quinoline-6-carboxylate | 2.67 mmol, 0.50 g | N1=CC=CC2=CC(=CC=C12)C(=O)OC | C11H9NO2
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2-(quinolin-6-yl)propan-2-ol | N1=CC=CC2=CC(=CC=C12)C(C)(C)O | C12H13NO
